US09359196B2
Commercially available 4-fluorobenzylamine (500 mg, 3.99 mmol) was reacted with bromoacetyl bromide (380 μl, 4.39 mmol) in presence of triethylamine (600 μl, 4.39 mmol) at room temperature for 20 min. The progress of the reaction was monitored by a faster moving spot in silica TLC (60% ethyl acetate in hexanes). At the end of the reaction, the mixture was filtered, and the solvent was dried to obtain 2-bromo-N-[4-fluorobenzyl]acetamide. Potassium iodide (166 mg, 1 mmol) and Cs2CO3 (325 mg, 1 mmol) and 2-bromo-N-(4-fluorobenzyl)acetamide (270 mg, 1.20 mmol) were added to the compound 1 (311 mg, 1 mmol) in DMF (2 ml). The reaction mixture was heated at 95° C. for 60 min. The solvent was evaporated to dryness, and the residue was dissolved in chloroform. After brine and water wash, the organic phase was dried over anhydrous sodium sulfate, and concentrated to obtain a crude yellow solid. The crude compound was recrystallized from chloroform and hexanes to get the title compound 23 as a yellow crystalline solid (252 mg, 53% yield). 1H NMR (300 MHz, CDCl3): 7.93 (s, 1H), 7.83 (s, 2H, C═CH), 7.75-7.02 (m, 8H, Ar—H), 6.97 (dd, 2H, Ar—H, J=7.2, 2.1), 6.68 (t, 2H, Ar—H, J=7.2), 4.19 (s, 2H, benzylic), 4.17 (s, 2H, benzylic), 3.76 (s, 4H). ESI Mass calculated for C28H23F3N2NaO2(M+Na)+499.16. found 499.91.

reactant | 4-fluorobenzylamine | 3.99 mmol, 500 mg | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | bromoacetyl bromide | 4.39 mmol, 380 μl | BrCC(=O)Br | C2H2Br2O
reactant | triethylamine | 4.39 mmol, 600 μl | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-N-[4-fluorobenzyl]acetamide | BrCC(=O)NCC1=CC=C(C=C1)F | C9H9BrFNO
